### PR TITLE
Regular hyperdoctrines/indexed frames

### PR DESCRIPTION
**Pull request by plt-amy**
Defines regular hyperdoctrines (“bifibrations into meet-semilattices satisfying Frobenius reciprocity and Beck-Chevalley”, to quote the pretentious part of the module), the interpretation of regular logic with equality (⊤, ∃, =, ∧) in a regular hyperdoctrine, a sequent calculus for working with this interpretation, and the regular hyperdoctrine over Sets associated with a frame.

### CODE REVIEW

File: src/Cat/Displayed/Doctrine.lagda.md [hunk 1]
```diff
@@ -0,0 +1,291 @@
...
+\frac{\exists_x \phi \vdash \psi}{\phi \vdash_{x} \psi}
+$$
+
+</div>
+
+say precisely that existential quantification along $x$ is [[left
+adjoint]] to weakening by $x$! Since weakening will be interpreted by
+[[cartesian lifts]], we will interpret the existential quantification by
+a left adjoint to that: in other words, $\bP$ must also be a
+[[cocartesian fibration]] over $\bP$.
```
Comment (TOTBWF) [inline src/Cat/Displayed/Doctrine.lagda.md:130]: It might be worth noting that the quantification is kinda weird here: we are quantifying over an _arbitrary substitution_, as we actually have left adjoints to every single base change functor! What you are describing is Jacob's notion of a regular fibration, where you only have simple coproducts.

File: src/Cat/Displayed/Doctrine/Frame.lagda.md [hunk 2]
```diff
@@ -0,0 +1,273 @@
...
+
+However, the *co*cartesian lifts are a lot more interesting, and their
+construction involves a pretty heavy dose of [[propositional resizing]].
+In ordinary predicative type theory, each frame is associated with a
+particular level for which it admits arbitrary joins. But our
+construction of the hyperdoctrine associated with a frame works for
+indexing a frame over an _arbitrary_ category of sets! How does that
+work?
+
+The key observation is that the join $\bigcup_I f$ of a family $f : I
```
Comment (TOTBWF) [inline src/Cat/Displayed/Doctrine/Frame.lagda.md:141]: Very nice 😎

File: src/Cat/Displayed/Doctrine/Logic.lagda.md [hunk 3]
```diff
@@ -0,0 +1,700 @@
...
+data Tm : Cx → Ty → Typeω where
+  var : Γ ∋ τ → Tm Γ τ
+
+  _,_ : Tm Γ τ → Tm Γ σ → Tm Γ (τ `× σ)
+  `π₁ : Tm Γ (τ `× σ) → Tm Γ τ
+  `π₂ : Tm Γ (τ `× σ) → Tm Γ σ
+
+  fun : Hom ⟦ τ ⟧ᵗ ⟦ σ ⟧ᵗ → Tm Γ τ → Tm Γ σ
+
+⟦_⟧ⁿ : Γ ∋ τ → Hom ⟦ Γ ⟧ᶜ ⟦ τ ⟧ᵗ
```
Comment (TOTBWF) [inline src/Cat/Displayed/Doctrine/Logic.lagda.md:120]: Might be a good time to introduce the immortal `Meta.Brackets` typeclass

File: src/Cat/Displayed/Doctrine/Logic.lagda.md [hunk 4]
```diff
@@ -0,0 +1,700 @@
...
+  keep : Ren Γ Δ → Ren (Γ ʻ τ) (Δ ʻ τ)
+
+data Sub : Cx → Cx → Typeω where
+  stop : Sub Γ Γ
+  _,_  : Tm Γ τ  → Sub Γ Δ → Sub Γ (Δ ʻ τ)
+  drop : Sub Γ Δ → Sub (Γ ʻ τ) Δ
+```
+
+```agda
+-- Superscript n for "name"
```
Comment (TOTBWF) [inline src/Cat/Displayed/Doctrine/Logic.lagda.md:158]: Comment is out of date.

File: src/Cat/Displayed/Doctrine/Logic.lagda.md [hunk 5]
```diff
@@ -0,0 +1,700 @@
...
+satisfies the rules of regular logic. We will start by defining the
+**entailment relation** $\phi \vDash \psi$ between _syntactic_ formulae
+which is equivalent to $\sem{\phi} \le \sem{\psi}$: $\phi$ entails
+$\psi$ iff $\bP$ thinks that the interpretation of $\phi$ implies that
+of $\psi$.
+
+```agda
+infix 10 _⊨_
+
+opaque
```
Comment (TOTBWF) [inline src/Cat/Displayed/Doctrine/Logic.lagda.md:432]: Mmmm yes very wise

File: src/Cat/Displayed/Doctrine/Logic.lagda.md [hunk 6]
```diff
@@ -0,0 +1,700 @@
...
+  unfolding _⊨_
+
+  _⊢∎ : (φ : Formula Γ) → φ ⊨ φ
+  _⊢∎ φ = P.≤-refl {_} {⟦ φ ⟧ᵖ}
+
+infixr 2 _≈⟨_⟩_ _≈˘⟨_⟩_ _⊢⟨_⟩_
+infix  3 _⊢∎
+```
+-->
```
Comment (TOTBWF) [inline src/Cat/Displayed/Doctrine/Logic.lagda.md:700]: Might be nice to have a little example here.

**Review by TOTBWF — APPROVED** [review]

File: src/Cat/Displayed/Doctrine.lagda.md [hunk 7]
```diff
@@ -0,0 +1,291 @@
...
+```agda
+open Cat B
+```
+-->
+
+# Regular hyperdoctrines {defines="regular-hyperdoctrine"}
+
+A **regular hyperdoctrine** is a generalisation of the defining features
+of the [[poset of subobjects]] of a [[regular category]]; More
+abstractly, it axiomatises exactly what is necesary to interpret
```
Comment (ncfavier) [inline src/Cat/Displayed/Doctrine.lagda.md:36]:
```suggestion
abstractly, it axiomatises exactly what is necessary to interpret
```

File: src/Cat/Displayed/Doctrine/Frame.lagda.md [hunk 8]
```diff
@@ -0,0 +1,273 @@
...
+  private opaque
+    isp : ∀ {x : Type ℓ} {f g : x → ⌞ F ⌟} → is-prop (∀ x → f x F.≤ g x)
+    isp = Π-is-hlevel 1 λ _ → F.≤-thin
+```
+-->
+
+## The indexing
+
+As the underlying [[displayed category]] of our hyperdoctrine, we'll
+fibre the [[slice category]] $\Sets/F$ over $\Sets$: The objects over a
```
Comment (ncfavier) [inline src/Cat/Displayed/Doctrine/Frame.lagda.md:63]: "fibre" as a verb?

File: src/Cat/Displayed/Doctrine/Logic.lagda.md [hunk 9]
```diff
@@ -0,0 +1,700 @@
...
+interpret regular logic relative to $\cB$, but that proof was deferred.
+This module actually finishes this claim, but because syntax is always
+fiddly, it's _quite_ long.
+
+## Terms
+
+The first thing we'll do is strictify $\cB$ a bit. Instead of working
+directly with arbitrary morphisms, it's slightly better --- for the
+computational behaviour of substitution --- to have a syntactic
+presentation the terms of our logic. We start with the **types**, built
```
Comment (ncfavier) [inline src/Cat/Displayed/Doctrine/Logic.lagda.md:51]:
```suggestion
presentation of the terms of our logic. We start with the **types**, built
```

File: src/Cat/Displayed/Doctrine/Logic.lagda.md [hunk 10]
```diff
@@ -0,0 +1,700 @@
...
+⟦ x , y ⟧ᵉ   = ⟨ ⟦ x ⟧ᵉ , ⟦ y ⟧ᵉ ⟩
+⟦ `π₁ x ⟧ᵉ   = π₁ ∘ ⟦ x ⟧ᵉ
+⟦ `π₂ x ⟧ᵉ   = π₂ ∘ ⟦ x ⟧ᵉ
+⟦ fun f t ⟧ᵉ = f ∘ ⟦ t ⟧ᵉ
+```
+
+## Renamings and substitutions
+
+Even after we have a good grasp on the morphisms in $\cB$ that we want
+to call _terms_, there are still two classes of map, now between pairs
```
Comment (ncfavier) [inline src/Cat/Displayed/Doctrine/Logic.lagda.md:135]:
```suggestion
to call _terms_, there are still two classes of maps, now between pairs
```
